US07186749B2
Step 4: 5-({[6-(1-Methyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}methyl)-1H-tetraazole.
In a similar manner as described in step 2 of Example 3, the title compound was prepared from {[6-(1-methyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetonitrile (0.20 g, 0.48 mmol), prepared in the previous step, ammonium chloride (0.077 g, 1.44 mmol) and sodium azide (0.094 g, 1.44 mmol) in DMF (10 mL). The precipitated solids were isolated by vacuum filtration to give 5-({[6-(1-methyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}methyl)-1H-tetraazole. as a white solid (0.228 g, 81%), mp 231–233° C. (dec). Elemental Analysis for C23H19N5O.0.34 H2O.0.07 C3H7NO Calc'd: C, 70.99; H, 5.18; N, 18.08. Found: C, 70.84; H, 5.07; N, 18.18.

reactant | {[6-(1-methyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetonitrile | 0.48 mmol, 0.20 g | CN1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OCC#N | C23H18N2O
reactant | ammonium chloride | 1.44 mmol, 0.077 g | [Cl-].[NH4+]
reactant | sodium azide | 1.44 mmol, 0.094 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-({[6-(1-methyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}methyl)-1H-tetraazole | CN1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OCC1=NN=NN1 | C23H19N5O
